US04028344
B. 2-t-Butylazo-2-isothiocyanato-4-methylpentane
To a stirred solution of 26.1 grams (0.3 moles) of sodium thiocyanate in 150 ml of 75% aqueous isopropanol in a 500 ml erlenmeyer flask, cooled to 5° C., was added 61.2 grams (0.3 moles) of 2-t-butylazo- 2-chloro-4-methylpentane holding the reaction temperature at 10°-20° C. After the addition was complete, the reaction mixture was stirred an additional two hours at 30° C., poured into 300 ml water and the product extracted with 200 ml pentane. The pentane extract was washed with water, 10% NaHCO3 solution, dried over anhydrous sodium sulfate, filtered and the pentane evaporated under reduced pressure to leave 55.7 grams (80% crude yield) of a yellow liquid. The product had a strong broad band at 1980- 2080 cm-1 in its infrared spectrum which is indicative of the isothiocyano band.

reactant | sodium thiocyanate | 0.3 moles, 26.1 grams | [S-]C#N.[Na+]
reactant | 2-t-butylazo- 2-chloro-4-methylpentane | 0.3 moles, 61.2 grams | C(C)(C)(C)N=NC(C)(CC(C)C)Cl | C10H21ClN2
reactant | water | 300 ml | O | H2O
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | 2-t-Butylazo-2-isothiocyanato-4-methylpentane | C(C)(C)(C)N=NC(C)(CC(C)C)N=C=S | C11H21N3S
